US04315068
1,4-dianilino-2,3-dihydroanthraquinone;
1,4-bis(ethylamino)-2,3-dihydroanthraquinone and leuco dyes bearing CI numbers 61100, 61105, 61107, 61116, 61120, 61140, 61500, 61505, 61510, 61515, 61520, 61525, 61530, 61535, 61540, 61545, 61565 and 61650 [for instance, 1-amino-4-methoxyanilino-2,3-dihydroanthraquinone and 1-p-(2-hydroxyethylamino)anilino-4-methylamino-2,3-dihydroanthraquinone].

reactant | 1,4-bis(ethylamino)-2,3-dihydroanthraquinone | C(C)NC=1CCC(=C2C(C3=CC=CC=C3C(C12)=O)=O)NCC | C18H20N2O2
reactant | 1-amino-4-methoxyanilino-2,3-dihydroanthraquinone | NC1(NC=2CCC=C3C(C4=CC=CC=C4C(C23)=O)=O)CC=C(C=C1)OC | C21H20N2O3
product | 1,4-dianilino-2,3-dihydroanthraquinone | N(C1=CC=CC=C1)C=1CCC(=C2C(C3=CC=CC=C3C(C12)=O)=O)NC1=CC=CC=C1 | C26H20N2O2
